US06887896B1
Ethyl (2E)-3-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-4-methyl-pent-2-enoate (Compound A-127)
As described in General Procedure F-1, 1-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-methyl-propan-1-one (Compound A-111, 234 mg, 0.60 mmol) and triethyl 2-fluoro-2-phosphonoacetate (576 mg, 2.38 mmol) were reacted with n-butyllithium (1.6 M in hexanes, 1.48 mL, 2.38 mmol) in THF to produce the title compound as a clear oil after purification by flash column chromatography (silica gel, 2% ethyl acetate in hexane).

reactant | 1-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-methyl-propan-1-one | 0.60 mmol, 234 mg | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)C(C(C)C)=O)OCC | C21H29BrO2
reactant | triethyl 2-fluoro-2-phosphonoacetate | 2.38 mmol, 576 mg | CCOC(=O)C(F)P(=O)(OCC)OCC | C8H16FO5P
reactant | n-butyllithium | 2.38 mmol, 1.6 M, 1.48 mL | C(CCC)[Li]
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl (2E)-3-(4-bromo-3-ethoxy-8-isopropyl-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-4-methyl-pent-2-enoate | BrC1=C(C(=CC=2C(=CCC(C12)(C)C)C(C)C)/C(=C(\C(=O)OCC)/F)/C(C)C)OCC | C25H34BrFO3
